US08912181B2
2-(4-Hydroxycyclohexylamino)-4-(1-(quinolin-3-yl)isoquinolin-5-yl)benzamide
3-(5-Bromoisoquinolin-1-yl)quinoline was obtained according to Example 2(1) using 3-quinolineboronic acid instead of 4-cyano-3-(4-hydroxycyclohexylamino)phenylboronic acid pinacol ester. A compound of Comparative Example 1 was obtained as a pale yellow solid (yield based on 3 steps: 24%) according to Example 2(3) using the obtained 3-(5-bromoisoquinolin-1-yl)quinoline instead of compound (2b) and 4-cyano-3-(4-hydroxycyclohexylamino)phenylboronic acid pinacol ester instead of 4-cyano-3-(ethylamino)phenylboronic acid pinacol ester.

reactant | 3-quinolineboronic acid | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
reactant | 3-(5-bromoisoquinolin-1-yl)quinoline | BrC1=C2C=CN=C(C2=CC=C1)C=1C=NC2=CC=CC=C2C1 | C18H11BrN2
reactant | 4-cyano-3-(4-hydroxycyclohexylamino)phenylboronic acid pinacol ester | C(#N)C1=C(C=C(C=C1)B1OC(C)(C)C(C)(C)O1)NC1CCC(CC1)O | C19H27BN2O3
product | 2-(4-Hydroxycyclohexylamino)-4-(1-(quinolin-3-yl)isoquinolin-5-yl)benzamide | OC1CCC(CC1)NC1=C(C(=O)N)C=CC(=C1)C1=C2C=CN=C(C2=CC=C1)C=1C=NC2=CC=CC=C2C1 | C31H28N4O2
